US07034052B2
A solution of (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide and acetic anhydride (0.09 mL, 1 mmol) in acetonitrile/methylene chloride (6 mL each) was stirred at room temperature for 21 hrs. Ether (10 mL) and hexane (10 mL) was added to give a suspension. The suspension was filtered to give (1R)-cyclopropanecarboxylic acid {2-[2-acetoxycarbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a white solid (270 mg, 63% yield): mp, 140–142° C.; 1H NMR (DMSO-d6) δ 0.88–0.92 (m, 4H, 2CH2), 1.30 (t, J=7 Hz, 3H, CH3), 1.75–1.81 (m, 1H, CH), 2.09 (s, 3H, CH3), 3.02–3.07 (m, 2H, CH2), 3.73 (s, 3H, CH3), 4.01 (q, J=7 Hz, 2H, CH2), 4.18 (d, J=18 Hz, 1H, NCHH), 4.60 (d, J=18 Hz, 1H, NCHH), 5.67 (t, J=8 Hz, 1H, NCH), 6.86–6.95 (m, 3H, Ar), 7.18 (d, J=8 Hz, 1H, Ar) 7.49 (t, J=8 Hz, 1H, Ar), 8.23 (d, J=8 Hz, 1H, Ar), 10.54 (s, 1H, NH), 11.86 (s, 1H, NH); 13C NMR (DMSO-d6) δ 7.79, 14.70, 15.46, 17.95, 17.95, 34.55, 46.53, 51.06, 55.44, 63.76, 111.87, 111.99, 116.77, 117.29, 117.47, 119.23, 131.17, 132.74, 136.94, 142.25, 147.92, 148.52, 166.48, 168.02, 168.32, 171.70; Anal Calcd for C26H29N3O7+0.1 H2O: C, 62.79; H, 5.92; N, 8.45, H2O, 0.36. Found: C, 62.44; H, 5.82; N, 8.37, H2O, 0.30.

reactant | (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | C(C)OC=1C=C(C=CC1OC)[C@@H](CC(NO)=O)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C24H27N3O6
reactant | acetic anhydride | 1 mmol, 0.09 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Ether | 10 mL | CCOCC | C4H10O
reactant | hexane | 10 mL | CCCCCC | C6H14
solvent | acetonitrile methylene chloride | 6 mL | C(C)#N.C(Cl)Cl
product | (1R)-cyclopropanecarboxylic acid {2-[2-acetoxycarbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 270 mg, 63% yield | C(C)(=O)ONC(=O)C[C@H](C1=CC(=C(C=C1)OC)OCC)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C26H29N3O7
